US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide was prepared using the method of Example 34(d) starting from 4-oxazolecarboxylic acid (0.181 g, 1.596 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (0.430 g, 1.330 mmol). The product was purified by Flash-chromatography. Yield 0.813%. 1H-NMR (400 MHz; CDCl3): δ 1.27 (d, 3H), 2.57 (s, 3H), 4.31 (dd, 1H), 4.43 (dd, 1H), 4.54-4.63 (m, 1H), 6.44 (d, 1H), 7.50 (d, 1H), 7.51-7.55 (m, 2H), 7.60 (dd, 1H), 7.85 (d, 1H), 8.22 (d, 1H).

reactant | 4-oxazolecarboxylic acid | 1.596 mmol, 0.181 g | O1C=NC(=C1)C(=O)O | C4H3NO3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 1.330 mmol, 0.430 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)C | C14H15ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide | Yield 0.813% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=COC1)C | C18H16ClN5O2
